US05470845
(1). (E)-3-(3-Nitrophenyl)-2-propenoic acid, ethyl ester
A mixture of 3-nitrocinnamic acid (11.7 g, 60.6 mmol), concentrated sulfuric acid (0.16 mL, 3.03 mmol) and absolute ethanol (120 mL) was refluxed overnight. The reaction mixture was poured into ice water (400 mL). The mixture was extracted with ethyl ether (500 mL×2). The organic layer was washed with saturated sodium bicarbonate solution (100 mL×2), water (100 mL×2), brine (100 mL×2) and dried over magnesium sulfate. Evaporation gave title compound (12.0 g, 99%) as a colorless oil.

reactant | 3-nitrocinnamic acid | 60.6 mmol, 11.7 g | [N+](=O)([O-])C=1C=C(C=CC(=O)O)C=CC1 | C9H7NO4
reactant | sulfuric acid | 3.03 mmol, 0.16 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 120 mL | C(C)O | C2H6O
product | (E)-3-(3-Nitrophenyl)-2-propenoic acid, ethyl ester | 12.0 g, 99% | [N+](=O)([O-])C=1C=C(C=CC1)/C=C/C(=O)OCC | C11H11NO4
